US08138179B2
c1) 5-(2-Hydroxyethylsulphanyl-5-(1H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile
5 mol % p-toluenesulphonic acid are added to a solution of 1 mmol of 5-hydroxy-5-(3H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile and 2.2 mmol of 2-mercaptoethanol [60-24-2] in 10 ml of xylene, and the mixture is heated to reflux in the presence of molecular sieves (4 Å) overnight. The reaction mixture is cooled to room temperature, diluted with 1M sodium bicarbonate solution and extracted with ethyl acetate (3×). The combined organic phases are dried with sodium sulphate and evaporated. The title compound is identified from the residue on the basis of the Rf by flash chromatography (SiO2 60F).

reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-hydroxy-5-(3H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 1 mmol | OC1(C=2C=CC(=CC2CCC1)C#N)C=1NC=NC1 | C14H13N3O
reactant | 2-mercaptoethanol | 2.2 mmol | SCCO | C2H6OS
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | sodium bicarbonate | 1M | C([O-])(O)=O.[Na+]
product | 2-Hydroxyethylsulphanyl-5-(1H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | OCCSC1=C(C=CC=2C(CCCC12)C=1N=CNC1)C#N | C16H17N3OS
